US09315521B2
2-{[(4-ethyl-1,3-thiazol-5-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol
A mixture of 5-(bromomethyl)-4-ethyl-1,3-thiazole (5.2 mmol), 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol (700 mg, 3.6 mmol), and triethylamine (1.5 mL, 11 mmol) in absolute ethanol (40 mL) was stirred at room temperature overnight. The mixture was evaporated. The residue was treated with diethyl ether (100 mL). The solid material was removed by filtration. The filtrate was recovered and evaporated. The crude product was purified by flash chromatography (0-4% MeOH/CH2Cl2), affording the title compound (900 mg, 78% yield); 1H NMR (500 MHz, DMSO-d6): δ 1.19 (t, 2H, J=7.5 Hz), 2.76 (m, 2H, J=7.5 Hz), 4.65 (s, 2H), 6.65 (s, 1H), 8.88 (s, 1H); M+322.

reactant | 5-(bromomethyl)-4-ethyl-1,3-thiazole | 5.2 mmol | BrCC1=C(N=CS1)CC | C6H8BrNS
reactant | 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol | 3.6 mmol, 700 mg | SC1=NC(=CC(=N1)O)C(F)(F)F | C5H3F3N2OS
reactant | triethylamine | 11 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-{[(4-ethyl-1,3-thiazol-5-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol | 900 mg, 78% yield | C(C)C=1N=CSC1CSC1=NC(=CC(=N1)O)C(F)(F)F | C11H10F3N3OS2
